US06762320B2
N-[4-(3-Fluoro-benzylsulfanyl)-phenyl]-malonamide
Prepared in analogy to example 3 from N-[4-(3-fluoro-benzylsulfanyl)-phenyl]-malonamic acid methyl ester and ammonium hydroxide. Yield=47%. Colorless solid. MS: m/e=319.3 (M++H).

reactant | N-[4-(3-fluoro-benzylsulfanyl)-phenyl]-malonamic acid methyl ester | COC(CC(=O)NC1=CC=C(C=C1)SCC1=CC(=CC=C1)F)=O | C17H16FNO3S
reactant | ammonium hydroxide | [OH-].[NH4+]
product | N-[4-(3-Fluoro-benzylsulfanyl)-phenyl]-malonamide | Yield=47% | FC=1C=C(CSC2=CC=C(C=C2)NC(CC(=O)N)=O)C=CC1 | C16H15FN2O2S
